US04665181
Step (b), Production of 5-Bromophthalide
A mixture of 16.8 gm 5-aminophthalide in 34 ml 48% aqueous hydrobromic acid was cooled to 0° in an ice bath and a solution of 7.8 gm sodium nitrite in 15 ml water was added at less than 5°, using internal ice cooling as necessary. The nitrosation mixture was stirred for an additional 30 minutes at about 0° with an excess of nitrous acid (positive to starch-iodide test paper). After 30 minutes, the diazonium salt was added portion wise over about 35 minutes to a mixture of 28.2 gm freshly prepared cuprous bromide and 18 ml 48% aqueous hydrobromic acid at room temperature (the bulk of the diazonium salt was maintained at about 0°). The temperature of the reaction mixture rose to about 38° and considerable frothing occurred. The mixture was stirred for an hour, then the product was filtered off and washed neutral with water. After recrystallization from 100 ml isopropanol the product weighed 15.7 gm and melted at 153°-157°.

reactant | 5-aminophthalide | 16.8 gm | NC=1C=C2COC(=O)C2=CC1 | C8H7NO2
reactant | sodium nitrite | 7.8 gm | N(=O)[O-].[Na+]
reactant | nitrous acid | N(=O)O | HNO2
reactant | hydrobromic acid | 34 ml | Br | BrH
reactant | hydrobromic acid | 18 ml | Br | BrH
solvent | water | 15 ml | O | H2O
product | 5-Bromophthalide | BrC=1C=C2COC(=O)C2=CC1 | C8H5BrO2
